US05157041
0.5 g of N2 -(benzyloxycarbonyl)-N1 -tert.butyl-4(S)-(methanesulphonyloxy)-L-prolinamide was dissolved in 10 ml of dry dimethylformamide and treated with 0.330 g of sodium azide. The heterogeneous mixture was stirred and heated at 75° C. for 18 hours. The mixture was evaporated under an oil pump vacuum to give a solid which was partitioned between ethyl acetate and water. The ethyl acetate phase was washed with saturated sodium chloride solution and dried over anhydrous sodium sulphate. The solvent was removed by evaporation to give 0.345 g of N2 -(benzyloxycarbonyl)-4(R)-azido-N1 -tert.butyl-L-prolinamide in the form of a gum.

reactant | N2 (benzyloxycarbonyl)-N1 -tert.butyl-4(S)-(methanesulphonyloxy)-L-prolinamide | 0.5 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@H](C1)OS(=O)(=O)C)C(C)(C)C)C(=O)N
reactant | sodium azide | 0.330 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N2 (benzyloxycarbonyl)-4(R)-azido-N1 -tert.butyl-L-prolinamide | 0.345 g | N#N.C(C1=CC=CC=C1)OC(=O)[C@@]1(N(C[C@@H](C1)N=[N+]=[N-])C(C)(C)C)C(=O)N | InChI=1S/C17H23N5O3.N2/c1-16(2,3)22-10-13(20-21-19)9-17(22,14(18)23)15(24)25-11-12-7-5-4-6-8-12;1-2/h4-8,13H,9-11H2,1-3H3,(H2,18,23);/t13-,17+;/m1./s1
